US08871792B2
Preparation 5: 1-(3-Chlorophenyl)-5-oxo-4,5-dihydro-1H-[1,2,4]triazole-3-carboxylic Acid
A mixture of 1-(3-chlorophenyl)-5-oxo-4,5-dihydro-1H-1,2,4-triazole-3-carboxylic acid ethyl ester (200.0 mg, 747 mmol), LiOH (71.6 mg, 1.5 mmol) in water (2 mL), and MeOH (10.0 mL, 247 mmol) was stirred at room temperature overnight then concentrated. The residue was acidified with 1N HCl to pH 3-4, forming a precipitate, which was filtered, washed with water (2×5 mL), and dried in vacuo to yield the title compound (100.6 mg).

reactant | 1-(3-chlorophenyl)-5-oxo-4,5-dihydro-1H-1,2,4-triazole-3-carboxylic acid ethyl ester | 747 mmol, 200.0 mg | C(C)OC(=O)C1=NN(C(N1)=O)C1=CC(=CC=C1)Cl | C11H10ClN3O3
reactant | LiOH | 1.5 mmol, 71.6 mg | [Li+].[OH-]
reactant | MeOH | 247 mmol, 10.0 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 1-(3-Chlorophenyl)-5-oxo-4,5-dihydro-1H-[1,2,4]triazole-3-carboxylic Acid | 100.6 mg | ClC=1C=C(C=CC1)N1N=C(NC1=O)C(=O)O | C9H6ClN3O3
